US07157464B2
Synthesis of 2-Chloro-1-[4-(4-bromo-3-methoxy-phenyl)-piperazin-1-yl]-ethanone
Protocol S was followed using 1-(4-bromo-3-methoxyphenyl) piperazine, Et3N, chloroacetyl chloride and methylene chloride. Column chromatography using a solvent mixture (hexane/ethyl acetate=1.5/1) afforded the title compounds as a white solid

reactant | 1-(4-bromo-3-methoxyphenyl) piperazine | BrC1=C(C=C(C=C1)N1CCNCC1)OC | C11H15BrN2O
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-Chloro-1-[4-(4-bromo-3-methoxy-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Br)OC | C13H16BrClN2O2
